US05668146
To a solution of 1,5-bis(4-(2-quinolylmethoxy)phenyl)-3-pentanone (2.21 g, 4 mmol), prepared as in step 3, in dioxane (15 mL) and ethanol (35 mL) was added NaBH4 (152 mg, 4 mmol) and the resulting mixture was refluxed for 30 minutes. The solution was then cooled to room temperature, acidified to pH 5 with 10% citric acid and concentrated in vacuo. To the residue was added water (50 mL) and the precipitated solid was filtered to afford 1,5-bis(4-(2-quinolylmethoxy)phenyl)-3-pentanol (2.3 g).

reactant | 1,5-bis(4-(2-quinolylmethoxy)phenyl)-3-pentanone | 4 mmol, 2.21 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C37H32N2O3
reactant | ethanol | 35 mL | C(C)O | C2H6O
reactant | NaBH4 | 4 mmol, 152 mg | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 1,5-bis(4-(2-quinolylmethoxy)phenyl)-3-pentanol | 2.3 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)O | C37H34N2O3
